US08455646B2
Preparation of (4-fluoro-benzylamino)-phenyl-acetic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl)ester (C82)
A mixture of (4-fluoro-benzylamino)-phenyl-acetic acid hydrochloride (233 mg, 0.79 mmol), (R)-quinuclidin-3-ol (200 mg, 1.57 mmol), 2-(1H-benzo[d][1,2,3]triazol-1-yl)-1,1,3,3-tetramethylisouronium hexafluorophosphate (V) (596 mg, 1.57 mmol), TEA (0.22 mL, 1.57 mmol) and HOBT (241 mg, 1.57 mmol) in acetonitrile (10 mL) is stirred at RT for 48 hours. THF is removed under vacuum and the crude is partitioned between EtOAc and water. The organic phase is dried over sodium sulphate, filtered and evaporated to dryness. The crude is purified by preparative HPLC. The combined fractions are dried and partitioned between EtOAc and 2M K2CO3. The organic phase is dried over sodium sulphate, filtered and evaporated to dryness to achieve the title compound as colorless oil (61 mg, 21% yield, mixture of diastereoisomers).

reactant | (4-fluoro-benzylamino)-phenyl-acetic acid hydrochloride | 0.79 mmol, 233 mg | Cl.FC1=CC=C(CNC(C(=O)O)C2=CC=CC=C2)C=C1
reactant | (R)-quinuclidin-3-ol | 1.57 mmol, 200 mg | N12C[C@@H](C(CC1)CC2)O | C7H13NO
reactant | HOBT | 1.57 mmol, 241 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | (4-fluoro-benzylamino)-phenyl-acetic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl)ester | 61 mg, 21% yield | N12C[C@@H](C(CC1)CC2)OC(C(C2=CC=CC=C2)NCC2=CC=C(C=C2)F)=O | C22H25FN2O2
